US07531546B2
To a solution of 2-fluoro-4-methoxy-1-nitro-benzene (84.1 g, 0.49 mol) and dimethyl malonate (129.9 g, 0.98 mol) in DMF (490 ml), potassium carbonate (135.9 g, 0.98 mol) is added at ambient temperature. The reaction mixture is stirred at 70 C.° for 12 h. The reaction mixture is added to toluene (393 ml) and 12 N HCl (123 ml) and extracted with ethyl acetate. The combined extracts are washed with H2O and brine, dried over sodium sulfate and evaporated down to give 2-(5-methoxy-2-nitro-phenyl)-malonic acid dimethyl ester.

reactant | 2-fluoro-4-methoxy-1-nitro-benzene | 0.49 mol, 84.1 g | FC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C7H6FNO3
reactant | dimethyl malonate | 0.98 mol, 129.9 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | potassium carbonate | 0.98 mol, 135.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 12 N, 123 ml | Cl | ClH
solvent | DMF | 490 ml | CN(C)C=O | C3H7NO
solvent | toluene | 393 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(5-methoxy-2-nitro-phenyl)-malonic acid dimethyl ester | COC(C(C(=O)OC)C1=C(C=CC(=C1)OC)[N+](=O)[O-])=O | C12H13NO7
